US04618682
2-Amino-4,5-dihydro-N-(2-trifluoromethylphenyl)-1H-imidazole-1-carboxamide Monohydrochloride
A suspension of 42.60 g (0.2 mole) of 2-iminoimidazolidine monohydroiodide in 500 ml THF was treated with 16 g (0.2 mole) of 50% NaOH solution and stirred for 0.5 hour. Twenty grams of anhydrous Na2SO4 were added and the mixture stirred for another 0.5 hour. The mixture was cooled to -20° C. (it was necessary to maintain a temperature of -20° C. at all times to avoid isomerization) under N2 and a solution of 18.71 g (0.1 mole) 2-trifluoromethylphenyl isocyanate in 125 ml THF was added dropwise while stirring over a 3-hour period, maintaining the temperature at -20° C. The mixture sitrred for another hour at -20° C. then the inorganics were filtered off and the solvent was removed cold, in vacuo, to yield a yellow-green oil, which was stirred in cold brine and extracted with 3×150 ml portions of cold CH2Cl2 . The combined CH2Cl2 extracts were dried over anhydrous K2CO3 and filtered. The filtrate was acidified with cold, excess ethereal HCl to pH <3 and was stored in a freezer overnight. The solvent and excess HCl were removed in vacuo and the yellow solid remaining was washed with Et2O to remove excess HCl. The solid (25.2 g; 81.6%) was recrystallized from MeOH/Et2O to yield 17.2 g (55.7%) of impure product, which was recrystallized from MeOH/2-PrOH/Et2O, and finally from MeOH/Et2O to yield 4.7 g (15.2%) of pure hydrochloride salt, m.p. 166.5°-167° C. (dec.), a white solid.

reactant | 2-iminoimidazolidine monohydroiodide | 0.2 mole, 42.60 g | I.N=C1NCCN1
reactant | NaOH | 0.2 mole, 16 g | [OH-].[Na+]
reactant | Na2SO4 | Twenty grams | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | 2-trifluoromethylphenyl isocyanate | 0.1 mole, 18.71 g | FC(C1=C(C=CC=C1)N=C=O)(F)F | C8H4F3NO
reactant | brine | [Cl-].[Na+].O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 125 ml | C1CCOC1 | C4H8O
product | 2-Amino-4,5-dihydro-N-(2-trifluoromethylphenyl)-1H-imidazole-1-carboxamide Monohydrochloride | 17.2 g, 55.7% | Cl.NC=1N(CCN1)C(=O)NC1=C(C=CC=C1)C(F)(F)F | InChI=1S/C11H11F3N4O.ClH/c12-11(13,14)7-3-1-2-4-8(7)17-10(19)18-6-5-16-9(18)15;/h1-4H,5-6H2,(H2,15,16)(H,17,19);1H
